data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C1(CC(C(=CC1(C)CCCO[Si](C)(C)C(C)(C)C)CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)C)O)[S+](C4=CC=CC=C4)OC(=O)C.CC(=O)[O-:10].[Na+]>>[H:20][O:10]C(=O)C.CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH-:21][S+](C4=CC=CC=C4)OC(=O)C)O.[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)CC(CC(=O)OCC)([OH:10])OCCO>>[H:20][OH+:10]C(CC(=O)OCC)(CC(=O)OCC)OCCO.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
COC(=O)C1CC[C:20](=[O+:21]CC[OH:10])CC1>>COC(=O)C1CC[C:20]2(CC1)[OH+:10]CC[O:21]2 10=20;20,21=21
[H:20][OH2+:21].CCCOC(=O)C[NH:10]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)O.N#N>>[H:20][NH+:10](CC(=O)OCCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)O.[OH2:21].N#N 10=20;20,21=21
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NC(CCSC)C(=O)NC1CCCC1.C(=O)(C(F)(F)F)[O-].[Cl-]>>C[C+:11](C)C.CSCCC(C(=O)NC1CCCC1)N[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
CCCC(=[O:10])CCC.CC(C)C[AlH:20]CC(C)C>>CCCC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)CCC 10=20,
[H:20][CH2:21][C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
C[P:10](C)C.[C:21](Br)(Br)(Br)[Br:20]>>C[P+:10](C)(C)[Br:20].[C-:21](Br)(Br)Br 10=20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]=[S+:21]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:10].C(=O)(C(F)(F)F)O>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:20]([O:10]C(=O)C(F)(F)F)[S:21]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O 10=20;20,21=21
C[OH:10].CS[CH:20]=[OH+:21]>>C[OH+:10][CH:20]([OH:21])SC 10=20;20,21=21
CC1(OC2C(C3[CH2:20][S+:21]3C2O1)OS(=O)(=O)C)C.C[O:10][Na].CS(=O)(=O)[O-]>>CC1(OC2C(C([S:21]C2O1)[CH2:20][O+:10](C)[Na])OS(=O)(=O)C)C.CS(=O)(=O)[O-] 10=20;20,21=21
CC(=C)[C:20](C)([O:10][Mg]Br)[Cl:21]>>CC(=C)[C:20](=[O+:10][Mg]Br)C.[Cl-:21] 10=20;20,21=21
[H:20][O+:21]=C(CCCCO)O.[OH2:10]>>[H:20][OH2+:10].C(CCO)CC(=[O:21])O 10=20;20,21=21
CO[C:20](C1=CC=CC=C1)([O-:10])[Cl:21]>>CO[C:20](=[O:10])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1C2CCCCC2)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C2CCCCC2)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C1CC=CC(=[O:10])C1.Cl[Ti:20](Cl)(Cl)Cl.C[Si](C)(C)CC=C>>C1CC=CC(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)C1.C[Si](C)(C)CC=C 10=20,
[H:20][NH2+:21]C.CNC(=O)CC1(CCC(=O)CC1[O-:10])C2=CC(=C(C=C2)OC)OC>>[H:20][O:10]C1CC(=O)CCC1(CC(=O)NC)C2=CC(=C(C=C2)OC)OC.C[NH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)NC1=C(C=CC=C1)CC(=O)CCC(CC)(CCCNC(=O)CCl)C=O.C(=O)(C(F)(F)F)[O-:10].C[C+](C)C>>[H:20][O:10]C(=O)C(F)(F)F.CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)NC(=O)[O-:21])C=O.C[C+](C)C 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)OC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.COC1=C[CH:22]=[C:21](O1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][O:21][S+:22](C)CC.C[O-:10]>>[H:20][O:10]C.CC[S:22](=[O:21])C 10=20;20,21=21,22
C1CC[O:10][CH:20](C1)[OH2+:21]>>C1CC[O+:10]=[CH:20]C1.[OH2:21] 10=20;20,21=21
[H:20][NH+:21](C1=C2C=CC=CC2=CC=C1)C(CCl)([O-])Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C1=CC2=CC=CC(=C2C=C1)[NH:21]C(CCl)([O-])Cl 10=20;20,21=21
CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C(=O)[C:20]1=[O:21])C.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH2:10].CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)[NH3+])N.[Cl-]>>CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C(=O)[C:20]1([NH2+:10]C4=C(C=CC(=C4)C(=O)C5=CC=CC=C5)N)[O-:21])C.CCO.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)[NH3+])N.[Cl-] 10=20;20,21=21
[H:10][AlH3-:11].CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[CH:20]=[N:21]C>>[H:10][CH:20](CCC(C)OS(=O)(=O)C1=CC=C(C=C1)C)[N-:21]C.[AlH3:11] 10,11=10,20;20,21=21
CC(C)O[Al-](OC(C)C)(OC(C)C)[O+:21]1C2[C:20]1(CCCC2)[C:11]3(CCC[CH2:10]3)[OH:12]>>CC(C)O[Al-]([O:21]C1CCCC[C:20]12[CH2:10]CCC[C:11]2=[OH+:12])(OC(C)C)OC(C)C 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].CC1CCCC([CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCCC([C+:11]1C2=CC=CC=C2)C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
C(CO)[CH:20]=[OH+:21].[OH2:10]>>C(CO)[CH:20]([OH2+:10])[OH:21] 10=20;20,21=21
[Li+:20].[P:10](Cl)(Cl)Cl>>[Li:20][P+:10](Cl)(Cl)Cl 10=20,
C[CH:20]=[N:21]C.CC#[C-:10]>>CC#[C:10][CH:20](C)[N-:21]C 10=20;20,21=21
CC[NH:10]CC(=O)C.CC(=O)[CH2:20][Br:21]>>CC[NH+:10](CC(=O)C)[CH2:20]C(=O)C.[Br-:21] 10=20;20,21=21
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)O.[N+:20](=O)=[O:21]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[N+:20](=O)[O-:21])O 10,11=10,20;20,21=21;12,13=11,12
CC[NH:10]CC.COC1([CH:20]=[CH:21]1)OC>>CC[NH+:10](CC)[CH:20]1[CH-:21]C1(OC)OC 10=20;20,21=21
C[C:20](=[N:10]CCC1=CC=CC=C1)[O:21]P(=O)(Cl)Cl>>C[C:20]#[N+:10]CCC1=CC=CC=C1.[O-:21]P(=O)(Cl)Cl 10=20;20,21=21
CC=C[CH2:20][I:21].[C-:10]#N>>CC=C[CH2:20][C:10]#N.[I-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)CC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)O[C:22]1=[C:21](C=CC=C1)S(=O)(=O)O 10=20;20,21=21,22
